US07597875B2
Carbomethoxymethylenetriphenylphosphorane (167 g, 0.5 mol) in toluene (600 ml) was treated with dimethyl 3-oxoglutarate (87 g, 0.5 mol) and the reaction heated to 100° C. on an oil bath at 120° C. under an atmosphere of nitrogen for 36 h. The reaction was then concentrated in vacuo and the oily residue triturated with 40/60 petrol ether/diethylether 1:1, 600 ml. Triphenylphosphine oxide precipitated out and the supernatant liquid was decanted/filtered off. The residue on evaporation in vacuo was Kugelrohr distilled under high vacuum Bpt (oven temperature 180-200° C. at 0.2 torr) to give 3-(methoxycarbonylmethylene)glutaric acid dimethylester (89.08 g, 53%).

reactant | Carbomethoxymethylenetriphenylphosphorane | 0.5 mol, 167 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
reactant | dimethyl 3-oxoglutarate | 0.5 mol, 87 g | O=C(CC(=O)OC)CC(=O)OC | C7H10O5
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(methoxycarbonylmethylene)glutaric acid dimethylester | 89.08 g, 53% | COC(CC(CC(=O)OC)=CC(=O)OC)=O | C10H14O6
